* C:\Users\Arvind\Downloads\gandthod.asc
M1 outp N006 inp inp NM l=0.18u w=6u
VDD N001 0 1.8V
I§RF+ inp 0 SINE(1m 0.25m 1.1g) AC 1
R1 outp N001 300
V§LO+ N006 0 PULSE(0 1.8 0 100p 100p 0.3n 1n)
I§RF- N005 0 SINE(1m -0.25m 1.1g) AC 1
M3 outp N007 N005 N005 NM l=0.18u w=6u
M4 outn N007 inp inp NM l=0.18u w=6u
M5 outn N006 N005 N005 NM l=0.18u w=6u
V§LO- N007 0 PULSE(1.8 0 0 100p 100p 0.3n 1n)
R2 outn N001 300
E1 out 0 outp outn 1
R3 out N002 50
L1 N003 N002 20.6n
L2 N004 N003 76.9n
C1 N003 0 22.5p
C2 N004 0 30.7p
C3 out_lpf 0 8.2p
L3 out_lpf N004 56.3n
R4 0 out_lpf 50
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Arvind\AppData\Local\LTspice\lib\cmp\standard.mos
* .op
;ac dec 100 1 10g
* ;.include tsmc180nmcmos.lib
* ;.dc I1 -165n 165n 1n
.lib mosfet_018.lib
* .dc v1 0 2.4
.options plotwinsize=0
.tran 0 100n 0 10p
.backanno
.end
